US04200641
A mixture of 20 parts of 3-[(2-amino-4-chlorophenyl)amino]-1-propanol, 50 parts of acetic acid and 150 parts of a hydrochloric acid solution 4 N is stirred and refluxed overnight. The reaction mixture is cooled and evaporated. The residue is dissolved in water and the solution is alkalized with ammonium hydroxide. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is crystallized from a mixture of 4-methyl-2-pentanone and 2,2'-oxybispropane, yielding 5-chloro-2-methyl-1H-benzimidazole-1-propanol.

reactant | 3-[(2-amino-4-chlorophenyl)amino]-1-propanol | NC1=C(C=CC(=C1)Cl)NCCCO | C9H13ClN2O
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 5-chloro-2-methyl-1H-benzimidazole-1-propanol | ClC1=CC2=C(N(C(=N2)C)CCCO)C=C1 | C11H13ClN2O
